US04833164
4-Bromo-2-(phenylmethyl)-1-naphthol
A solution of 2-(phenylmethyl)-1-naphthol (1.00 g, 4.3 mmole) in acetic acid (20 mL) was stirred at room temperature. A solution of bromine (0.7 g, 4.3 mmole) in acetic acid (6 mL) was added dropwise over 10 minutes. The mixture was stirred for another 5 minutes, then poured into water. The resulting solid was collected by filtration and recrystallized (cyclohexane) to provide the title compound (1.21 g, 88%) as off-white needles, mp 123°-125°.

reactant | 2-(phenylmethyl)-1-naphthol | 4.3 mmole, 1.00 g | C1(=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C17H14O
reactant | bromine | 4.3 mmole, 0.7 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-(phenylmethyl)-1-naphthol | 1.21 g, 88% | BrC1=CC(=C(C2=CC=CC=C12)O)CC1=CC=CC=C1 | C17H13BrO
